US06291507B1
1-(3,4-dichlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole-2-carbonitrile (Compound 12 in Table II)
4-Oxo4,5,6,7-tetrahydroindol-2-carbonitrile (5.5 g) (Estep, K. G.; Synthetic Communications, 1995, 25, 507-514) in DMF (100 mL) was stirred with 3,4-dichlorobenzyl chloride (5.86 g), potassium iodide (cat.) and potassium carbonate (5.5 g) overnight until reaction was complete. The mixture was poured onto ice and partitioned between water and methylene chloride. The organic phase was washed with brine and dried (MgSO4), and the solvents removed in vacuo, to afford a pale yellow solid. Trituration with ether afforded the title compound as a white solid (8.71 g, 91%), NMR d(CDCl3) 2.20 (2H, dt), 2.50 (2H, t), 2.78 (2H, t), 5.20 (2H, s) 6.95 (1H, dd), 7.20 (2H, m), 7.45 (1H, d); M/z (+) 321 (MH+), 319.

reactant | 4-Oxo4,5,6,7-tetrahydroindol-2-carbonitrile | 5.5 g | O=C1C=2C=C(NC2CCC1)C#N | C9H8N2O
reactant | 3,4-dichlorobenzyl chloride | 5.86 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | potassium iodide | [I-].[K+]
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 1-(3,4-dichlorobenzyl)-4-oxo-4,5,6,7-tetrahydroindole-2-carbonitrile | 8.71 g, 91% | ClC=1C=C(CN2C(=CC=3C(CCCC23)=O)C#N)C=CC1Cl | C16H12Cl2N2O
